US05466847
The starting octamethylcyclotetrasilazane should effectively be one which is secondarily produced when hexamethylcyclotrisilazane is prepared by reaction between dimethyl dichlorosilane and ammonia. Using such secondarily produced octamethylcyclotetra-silazane, the amount of hexamethylcyclo-trisilazane formed per unit starting material can be maximized. At the same time, some technical problems can be solved including elimination or treatment of octamethylcyclo-tetrasilazane in the form of a solid (melting point of 97° C.) which is left in the distillation column after removal of hexamethylcyclo-trisilazane by distillation.

reactant | dimethyl dichlorosilane | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | ammonia | N | H3N
reactant | octamethylcyclotetra-silazane | C[Si]1(N[Si](N[Si](N[Si](N1)(C)C)(C)C)(C)C)C | C8H28N4Si4
product | hexamethylcyclo-trisilazane | C[Si]1(N[Si](N[Si](N1)(C)C)(C)C)C | C6H21N3Si3
